US08604015B2
Quinuclidine-3-carboxylic acid hydrochloride (817 mg, 4.26 mmol), EDC (1.23 g, 6.39 mmol), and HOBT (979 mg, 6.39 mmol) were dissolved in dry DMF (40 ml). DIPEA (2.61 ml, 14.9 mmol) and bis(3-fluorophenyl)methanol (1.03 mg, 4.69 mmol) were added, and the mixture was stirred at room temperature overnight. The mixture was diluted with water and extracted several times with Et2O. The organic phases were collected and washed with brine, dried (Na2SO4), filtered, and evaporated. The residue was purified by flash chromatography (DCM/MeOH=9/1) to obtain bis(3-fluorophenyl)methyl quinuclidine-3-carboxylate (874 mg, racemic mixture).

reactant | Quinuclidine-3-carboxylic acid hydrochloride | 4.26 mmol, 817 mg | Cl.N12CC(C(CC1)CC2)C(=O)O
reactant | EDC | 6.39 mmol, 1.23 g
reactant | HOBT | 6.39 mmol, 979 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 14.9 mmol, 2.61 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | bis(3-fluorophenyl)methanol | 4.69 mmol, 1.03 mg | FC=1C=C(C=CC1)C(O)C1=CC(=CC=C1)F | C13H10F2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | bis(3-fluorophenyl)methyl quinuclidine-3-carboxylate | 874 mg | N12CC(C(CC1)CC2)C(=O)OC(C2=CC(=CC=C2)F)C2=CC(=CC=C2)F | C21H21F2NO2
